US08871767B2
6-chloro-3-methyl-2-phenylimidazo[1,2-b]pyridazine
A stirred solution of 6-chloropyridazin-3-amine (1.00 g, 7.71 mmol) and 2-bromo-1-phenylpropan-1-one (Sigma-Aldrich, 1.54 g, 7.71 mmol) in acetonitrile (50 mL) is heated at 80° C. for 16 hours. The mixture is concentrated to dryness and purified via chromatography (hexanes to EtOAc) to afford the title compound (1.52 g, 81%) as a tan solid: Rf 0.52 (1:1 EtOAc:hexanes); LCMS (m/z)=244.2, 246.3 [M+H]+, tR=2.61 min.

reactant | 6-chloropyridazin-3-amine | 7.71 mmol, 1.00 g | ClC1=CC=C(N=N1)N | C4H4ClN3
reactant | 2-bromo-1-phenylpropan-1-one | 7.71 mmol, 1.54 g | BrC(C(=O)C1=CC=CC=C1)C | C9H9BrO
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 6-chloro-3-methyl-2-phenylimidazo[1,2-b]pyridazine | 1.52 g, 81% | ClC=1C=CC=2N(N1)C(=C(N2)C2=CC=CC=C2)C | C13H10ClN3
